US03950427
4-(2'-Fluoro-4-biphenylyl)-2-butanol by method A
A solution of 5.82 gm (0.132 mol) of acetaldehyde in 10 ml of dry ether was added dropwise to a stirred Grignard reagent prepared under exclusion of air from 47.0 gm (0.168 mol) of 1-bromo-2-(2'-fluoro-biphenylyl)-ethane and 4.0 gm (0.165 mol) of magnesium in 60 ml of anhydrous ether. All of these operations were carried out in an atmosphere of very pure nitrogen. The resulting mixture was heated for 2 hours on a water bath, while stirring, then cooled and hydryolized by addition of 50 gm of crushed ice, and subsequently half-concentrated hydrochloric acid was added until the precipitate which had formed just went into solution again. The ethereal phase was separated, the aqueous phase was extracted twice with ether, and the ethereal extracts were combined with the ethereal phase, washed with water, with an aqueous saturated sodium bicarbonate solution and again with water, dried over sodium sulfate and evaporated. The residue was recrystallized twice from petroleum ether in the presence of activated charcoal, yielding 9.0 gm (28% of theory) of the colorless crystalline compound of the formula ##SPC23##

reactant | acetaldehyde | 0.132 mol, 5.82 gm | C(C)=O | C2H4O
reactant | 1-bromo-2-(2'-fluoro-biphenylyl)-ethane | 0.168 mol, 47.0 gm | BrCCC1=C(C=CC=C1)C1=C(C=CC=C1)F | C14H12BrF
reactant | magnesium | 0.165 mol, 4.0 gm | [Mg] | Mg
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 60 ml | CCOCC | C4H10O
product | 4-(2'-Fluoro-4-biphenylyl)-2-butanol | FC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(C)O | C16H17FO
